US08461196B2
A stirred solution/suspension of 1-(4-methylnaphthalen-1-yl)-3-azabicyclo[3.1.0]hexane (85 mg, 0.38 mmol) in 1,2-dichloromethane (12 mL) was treated with 37% aqueous formaldehyde (0.23 mL, 3.0 mmol), then with sodium triacetoxyborohydride (318 mg, 1.5 mmol), stirred for 3 h, then treated with 1N sodium hydroxide (5 mL). The organic layer was separated and the aqueous solution was extracted with methylene chloride containing 2-propanol (2×10 mL). The combined organic solution was dried (MgSO4) and concentrated in vacuo to afford 1-(4-methylnaphthalen-1-yl)-3-methyl-3-azabicyclo[3.1.0]hexane (76 mg, 84%, essentially pure without chromatography). This was dissolved in anhydrous ether (5 mL) and treated with 2N HCl/ether (0.35 mL, 0.7 mmol), stirred a few minutes, filtered, rinsed with ether, collected, and dried in vacuo to afford 1-(4-methylnaphthalen-1-yl)-3-methyl-3-azabicyclo[3.1.0]hexane, hydrochloride (72 mg, 82%) as a white solid. MS (M+1) 238.1. 1H NMR (CDCl3) 12.70 (br s, 1H), 8.16 (m, 1H), 8.04 (m, 1H), 7.58 (m, 2H), 7.37 (m, 1H), 7.26 (m, 1H), 4.20 (m, 1H), 4.06 (m, 1H), 3.50 (m, 1H), 3.14 (m, 1H), 2.90 (d, 3H, J=5 Hz), 2.68 (s, 3H), 2.40 (m, 1H), 2.13 (m, 1H), 1.22 (m, 1H). 13C NMR (CDCl3) δ 135.73, 133.21, 131.70, 126.81, 126.35, 126.33, 125.41, 124.54, 61.65, 57.62, 41.52, 30.97, 22.37, 19.75.

reactant | 1-(4-methylnaphthalen-1-yl)-3-azabicyclo[3.1.0]hexane | 0.38 mmol, 85 mg | CC1=CC=C(C2=CC=CC=C12)C12CNCC2C1 | C16H17N
reactant | formaldehyde | 3.0 mmol, 0.23 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.5 mmol, 318 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
product | 1-(4-methylnaphthalen-1-yl)-3-methyl-3-azabicyclo[3.1.0]hexane | CC1=CC=C(C2=CC=CC=C12)C12CN(CC2C1)C | C17H19N
